US08193199B2
To a solution of 1-(5-chloro-2-(3-fluorophenyl)quinolin-3-yl)ethanol (0.9927 g, 3.290 mmol) in tetrahydrofuran (32.90 mL, 3.290 mmol) were added triphenylphosphine (2.589 g, 9.870 mmol), phthalimide (1.452 g, 9.870 mmol), and diisopropyl azodicarboxylate (1.943 mL, 9.870 mmol). The reaction mixture was stirred at room temperature. After 1.5 h, the mixture was concentrated under reduced pressure and partitioned between EtOAc (100 mL) and brine (100 mL). The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography on a 80 g of Redi-Sep™ column using 0 to 50% gradient of EtOAc in hexane over 25 min and 50% isocratic of EtOAc for 10 min as eluent to give 2-(1-(5-chloro-2-(3-fluorophenyl)quinolin-3-yl)ethyl)isoindoline-1,3-dione as a light yellow solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.84 (1H, s), 7.98-8.04 (1H, m), 7.85-7.90 (1H, m), 7.82 (1H, s), 7.74-7.81 (2H, m), 7.65-7.71 (2H, m), 7.21-7.33 (2H, m), 7.12-7.19 (2H, m), 5.76-5.82 (1H, m), 1.83 (3H, d, J=6.7 Hz); LC-MS (ESI) m/z 431.0 [M+H]+.

reactant | 1-(5-chloro-2-(3-fluorophenyl)quinolin-3-yl)ethanol | 3.290 mmol, 0.9927 g | ClC1=C2C=C(C(=NC2=CC=C1)C1=CC(=CC=C1)F)C(C)O | C17H13ClFNO
reactant | tetrahydrofuran | 3.290 mmol, 32.90 mL | O1CCCC1 | C4H8O
reactant | triphenylphosphine | 9.870 mmol, 2.589 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 9.870 mmol, 1.452 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diisopropyl azodicarboxylate | 9.870 mmol, 1.943 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
product | 2-(1-(5-chloro-2-(3-fluorophenyl)quinolin-3-yl)ethyl)isoindoline-1,3-dione | ClC1=C2C=C(C(=NC2=CC=C1)C1=CC(=CC=C1)F)C(C)N1C(C2=CC=CC=C2C1=O)=O | C25H16ClFN2O2
